data/mechanism_extracts/Angew/10.1002_anie.202313830_sup_1.json
{"doi": "10.1002_anie.202313830_sup_1", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical reductive Giese-type coupling of unactivated alkyl chlorides with electron-deficient olefins (acrylates) catalyzed by cobalt salen complexes", "mechanism_family": ["radical_cathodic", "electrocatalysis_inner_sphere", "sacrificial_anode"], "electrochemical_role": "Cathodic reduction of Co(II/III) salen to a Co(I) nucleophile that activates the alkyl chloride via inner-sphere oxidative addition to form Co(III)-alkyl; a second cathodic reduction of the Giese adduct (alpha-acyl radical) to the enolate is required for product formation. Zn sacrificial anode supplies counter-oxidation.", "key_intermediates": [{"name": "[Co(I)(salen)]- anionic complex", "smiles": null, "role": "reactive"}, {"name": "Co(III)(salen)-alkyl (e.g., Co(III)(L1)-nOctyl)", "smiles": null, "role": "resting_state"}, {"name": "alkyl radical (R•) from Co(III)-C homolysis", "smiles": null, "role": "transient"}, {"name": "alpha-carbonyl C-radical (Giese adduct radical)", "smiles": null, "role": "transient"}, {"name": "enolate (from second reduction of Giese adduct)", "smiles": null, "role": "reactive"}, {"name": "acrylate oligomers (polymerization side products without reductant)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode reduces Co(II) salen to Co(I), which displaces chloride from R-Cl to form a Co(III)-alkyl resting state; thermal Co(III)-C homolysis releases an alkyl radical that adds to acrylate (Giese addition); the resulting alpha-ester radical is reduced (cathodically) to an enolate, which is protonated by nBuOH/H2O to deliver the product.", "rate_determining_step": "Co(III)-C homolysis releasing the alkyl radical (modulated by salen steric bulk; faster with bulky Co(L3) for primary substrates)", "probe_reagents": [{"name": "6-chlorohex-1-ene (radical clock)", "smiles": "ClCCCCC=C", "purpose": "radical_clock", "observation": "Cyclized:uncyclized product ratio 3.6:1 at 5 mol% Co(Me4Salen); ratio decreases with higher catalyst loading (2.8 at 1.1% to 1.9 at 20%), consistent with free alkyl radical intermediate whose lifetime depends on Co concentration"}, {"name": "D2O (vs H2O)", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "~95% single deuterium incorporation at alpha-position of ester product, confirming protonation of an enolate intermediate (i.e., second reduction of Giese adduct radical)"}, {"name": "Co(III)(L2)-nOctyl stoichiometric", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Heating in presence of butyl acrylate without reductant gives Giese product plus oligomers (radical polymerization); under electroreductive conditions, oligomers suppressed and product yield increases, supporting cathodic reduction of Giese adduct to enolate"}, {"name": "Co(L1) added to Co(L3) reactions (inhibition study)", "smiles": null, "purpose": "intermediate_trap", "observation": "Increasing loading of less bulky Co(L1) decreases yield with primary electrophiles, implying formation of stable Co(III)-R adduct that retards homolysis"}, {"name": "Constant-potential electrolysis at -1.7, -1.9, -2.2 V (CV referenced)", "smiles": null, "purpose": "redox_probe", "observation": "Product formation and RCl consumption rates independent of applied potential; near-quantitative yield even at mild -1.7 V (E1/2 of catalyst), indicating direct reduction of Co(III)-alkyl is not required—radical generation proceeds via thermal homolysis"}], "evidence_types_used": ["radical_clock", "H/D_labeling", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "UV_vis", "kinetic_order"], "evidence_strength": "strong", "notes": "Steric tuning of salen ligand (Co(L3) = Me4Salen bulky vs Co(L1) = CySalen less bulky) controls Co(III)-C homolysis rate: bulky ligand accelerates homolysis (preferred for primary alkyl chlorides), less bulky for secondary/tertiary. An alternative mechanism in which the Co(III)-alkyl is reduced directly at the cathode to release the radical is ruled out by potential-independence experiments — thermal homolysis is operative. Without cathodic reduction of the Giese adduct radical, acrylate polymerization dominates, indicating that the second cathodic electron (to form the enolate) is essential."}
